US07737166B2
Methyl N-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-β-alaninate (#128)
Trifluoroacetic acid (1 ml) was added to a dichloromethane (2 ml) solution of tert-butyl N-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-β-alaninate (I-279) (51 mg, 0.104 mmol), followed by stirring at room temperature for 2 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in dichloromethane (1 ml), and at room temperature, thionyl chloride (10 μl, 0.138 mmol) was added, followed by stirring at room temperature for 1 hour. The reaction liquid was concentrated under reduced pressure, the then dissolved in chloroform, and washed with an aqueous saturated sodium hydrogencarbonate solution and saturated brine. After drying over anhydrous sodium sulfate and concentration, the insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by preparative TLC (eluent, chloroform:methanol=20:1, v/v), the eluate was purified in slurry with diethyl ether to obtain the entitled compound (8.00 mg, 17%) as a pale yellow solid.

reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl N-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-β-alaninate | 0.104 mmol, 51 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)NCCC(=O)OC(C)(C)C)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C28H35N5O3
reactant | thionyl chloride | 0.138 mmol, 10 μl | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Methyl N-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-β-alaninate | 8.00 mg, 17% | C(#N)C1=C(C(=C(C2=C1N=C(O2)NCCC(=O)OC)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C25H29N5O3
